US04778822
A solution of bromine (24.4 g) in carbon tetrachloride (50 ml) was added slowly over a period of 2 hours 45 minutes to a vigorously stirred solution of 2-chloro-3,6-difluorotoluene (24.4 g) in carbon tetrachloride (150 ml) irradicated by a 200 watt tungsten lamp maintained at 0° C. The solvent was removed by evaporation under reduced pressure and the residual oil distilled to yield 2-chloro-3,6-difluorobenzyl bromide (29.7 g) b.p 96°-101°/0.7 cm Hg

reactant | bromine | 24.4 g | BrBr | Br2
reactant | 2-chloro-3,6-difluorotoluene | 24.4 g | ClC1=C(C(=CC=C1F)F)C | C7H5ClF2
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | tungsten | [W] | W
product | 2-chloro-3,6-difluorobenzyl bromide | 29.7 g | ClC1=C(CBr)C(=CC=C1F)F | C7H4BrClF2
